Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Ms. ___ is a ___ female with h/o
___ transferred from ___ for toxic
metabolic encephalopathy and low grade fevers. There was a
concern for increased work of breathing on the transfer note.
Tmax = 99.1 at 1145 am. In the ED she reported that she was
coughing and had blood in ___ urine. In the ED she was given 
the following medications: 
___ 14:37 PO/NG LORazepam 1 mg 
___ 15:56 PO/NG CarBAMazepine 300 mg 
___ 15:57 PO/NG Carbamazepine Suspension  
___ 16:10 IM OLANZapine 5 mg  
___ 19:24 PO Haloperidol 5 mg 
___ 19:47 IM LORazepam 1 mg 
___ 19:47 IM Haloperidol 2.5 mg 
___ 20:17 IM LORazepam 1 mg 
___ 20:17 IM Haloperidol 2.5 mg 
She received Haldol and Ativan for belligerence and yelling but
she continued to have intermittent yelling but was 
re-directable.
Head CT in ED normal. It was determined that she did not need an
LP. 
___ called ___ RN ___ at ___ to get collateral history. 
She
was admitted on ___. She was transferred to the hospital
today because she looked more lethargic since yesterday evening.
Yesterday evening she choked on ___ food and had a coughing fit.
She was sleeping in bed and then had diarrhea all over the bed
overnight. ___ RN tells me that she is not like she was a few
days ago. She has been very dramatic since admission where she
throws herself on the floor and is usually very social
interacting with ___ peers but then yesterday even before the
coughing fit/aspiration event she was withdrawn and anxious and
less social. She had Tmax of 99.1 on ___ but other than
that she has been afebrile but then sheet obtained which
confirmed temp of 99.1 prior to transfer to the ED yesterday. 
___
RN could not comment on the episode of respiratory distress that
the call in note was referring to. 
She has been intrusive and going into other patients rooms but
staff thought she looked more confused than usual. 
Upon arrival to the floor she confirms that she has a cold with 
a
stuffy nose with a productive cough x weeks. + SOB when laying
fla and improves with putting a pillow behind ___. She sleeps on
___ pillows at home. No recent worsening. No sick contacts. +
Diarrhea last night and intermittent diarrhea x weeks. She has
been taking stool softners. + sick contacts but she cannot state
exactly who was sick. She does not have young grand kids. No
nausea or vomiting. + Dysuria with urination x months. No 
foreign
travel. She denies SI/HI. 
.
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
bipolar
HTN
 
Social History:
___
Family History:
Multiple family members with ___ depression

 
Physical Exam:
ADMISSION EXAM

VITALS: 97.9
___ / 78R Lying___
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
+upper airway breath sounds like snoring
+ frontal and b/l maxillary sinus tenderness
CV: Heart regular, ? soft ___ SEM at ___  
___ difficult to appreciate given body habitus. 
RESP: Initially with diffuse expiratory rhonchi which clear with
deep breath. After that ___ lungs are clear. 
+upper airway snoring noises when she breathes
Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
+ 1+ edema up to shin
SKIN: + dry xerotic rash on b/l lower extremities
NEURO: Alert, oriented x 3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout. She has a normal stable, independent
gait. She is able to count backwards from 10 to 1. 
PSYCH: pleasant, appropriate affect

=====
DISCHARGE EXAM

 
Pertinent Results:
ADMISSION RESULTS

D-dimer = 1402
Lactate = 1.1
135  98  18  123   AGap=11 
------------\
4.3  26  0.8  
CK: 221 
AP: 151
.
  
Other Body Fluid Chemistry:
FluAPCR: Negative 
FluBPCR: Negative 
.
      \11.___/  379 
 18.4 /37.4\  
 N:67.4 L:21.0 M:8.5 E:1.4 Bas:0.7 ___: 1.0 Absneut: 12.40
Abslymp: 3.87 Absmono: 1.57 Abseos: 0.25 Absbaso: 0.13  

___ 01:46PM BLOOD CK-MB-6 cTropnT-<0.01 proBNP-61
___ 01:46PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:44PM BLOOD ___ pO2-83* pCO2-43 pH-7.44 
calTCO2-30 Base XS-4 Comment-GREEN TOP

=======
PERTINENT INTERVAL RESULTS
NCHCT
IMPRESSION:  
  
1.  No acute intracranial process. 
2.  Evidence of chronic age-related involutional change and 
small vessel 
ischemic disease. 

CTA CHEST
IMPRESSION:  
Suboptimal evaluation of the segmental and subsegmental 
pulmonary arteries 
secondary to poor opacification and motion artifact.  Within 
this limitation, there is no evidence of lobar or larger 
pulmonary embolism. 
  
No large lung consolidation or mass within limitations of 
examination.  
Suggestion of mosaic attenuation as can be seen in air-trapping. 


CXR
IMPRESSION:  
Relatively low lung volumes with moderate vascular congestion. 

rpt UA: negative

======
DISCHARGE RESULTS

___ 05:52AM BLOOD WBC-11.0* RBC-3.98 Hgb-11.1* Hct-36.0 
MCV-91 MCH-27.9 MCHC-30.8* RDW-13.4 RDWSD-44.2 Plt ___

QTc 400 at 1300 on ___ female with bipolar disorder and htn who presents 
with increased lethargy and decreased social interactiveness and 
a recent ? aspiration event. Appears to have either a recent 
aspiration pneumonitis versus a resolving viral
URI, improving in any case. 

ACUTE/ACTIVE PROBLEMS:
# TACHYCARDIA
# TOXIC METABOLIC ENCEPHALOPATHY
# ELEVATED D-DIMER 
# LEUKOCYTOSIS
# MILD HYPOXEMIC RESP FAILURE, NOW RESOLVED
Likely ___ viral process given runny nose, +/- aspiration 
pneumonitis. No evidence of PE or pna (though note limitations 
of CTA). Given that she had no pulmonary symptoms and 
leukocytosis resolved without any intervention, further workup 
for a PE was therefore deemed unnecessary risk for no benefit. 
No evidence of meningitis/CNS process, no sinusitis, cellulitis, 
UTI, ACS, CHF. Appears to be at or approaching ___ current 
bipolar baseline in any case in terms of mental status, and 
tachycardia/hypoxemia/leukocytosis all resolved to resolving 
(WBC is approaching normal). BCx NGTD at several days. Was 
treated with decongestant symptomatically. Afebrile and 
hemodynamically stable throughout. 

# polyuria: UA wnl, glucose wnl on multiple checks. 

# DIARRHEA: did not recur in house. Abd exam benign. ___ have 
been part of initial viral syndrome.

# BIPOLAR DISODER
Continued home meds Haldol/Ativan/tegretol/Seroquel. Had a 1:1 
sitter. On ___ AM became much more agitated requiring a couple 
extra doses of quetiapine and haloperidol. Eventually made calm. 
Returning to psych facility on discharge for continued care. 
Continues on S12.  

CHRONIC/STABLE PROBLEMS:
#HTN:  continue lisinopril, continue ASA

>30 minutes spent on patient care and coordination on day of 
discharge. 

TRANSITIONAL ISSUES
- please follow up final BCx results, though anticipate these 
will be negative given negative for so long
- no need to follow up final UCx results as UA from which it was 
drawn was negative, so would not be a UTI even if had bacteria

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO TID 
2. melatonin 5 mg oral qHS 
3. Lisinopril 10 mg PO DAILY 
4. CarBAMazepine 600 mg PO QHS 
5. Haloperidol 5 mg PO TID 
6. Aspirin 81 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. QUEtiapine Fumarate 50 mg PO Q6H:PRN anxiety 
9. Mylanta 30 ml oral Q4H:PRN 
10. Milk of Magnesia 30 mL PO QHS:PRN Constipation - First Line 
11. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia 
12. Nicotine Polacrilex 2 mg PO Q2H:PRN craving 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Pseudoephedrine 30 mg PO Q6H:PRN nasal stuffiness 
  
RX *pseudoephedrine HCl 30 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*5 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Aspirin 81 mg PO DAILY  
4.  CarBAMazepine 600 mg PO QHS  
5.  DiphenhydrAMINE 50 mg PO QHS:PRN insomnia  
6.  Docusate Sodium 100 mg PO BID  
7.  Haloperidol 5 mg PO TID  
8.  Lisinopril 10 mg PO DAILY  
9.  LORazepam 1 mg PO TID  
10.  melatonin 5 mg oral qHS  
11.  Milk of Magnesia 30 mL PO QHS:PRN Constipation - First Line 
 
12.  Mylanta 30 ml oral Q4H:PRN  
13.  Nicotine Polacrilex 2 mg PO Q2H:PRN craving  
14.  QUEtiapine Fumarate 50 mg PO Q6H:PRN anxiety  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
toxic metabolic encephalopathy
aspiration event
viral syndrome

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
It was a pleasure caring for you. You were admitted for a fever 
and confusion. We believe this was caused by a viral infection 
not requiring antibiotics. We are discharging you back to your 
psychiatric facility to continue your psychiatric care. 
We wish you the best in your recovery.
 
Followup Instructions:
___